US05644055
A solution of methyl 1-[(S)-3-(benzyloxycarbonyl)-2-(trifluoroacetylamino)propionyl]-2,3-dihydroindole-2-(S)-carboxylate (30.1 g, 63 mmol) in ethyl acetate (450 mL) is hydrogenated on the Parr apparatus at 50 psi in the presence of 10% palladium on carbon (15 g) for 105 minutes. The catalyst is filtered off and the filtrate is concentrated under reduced pressure. The residue is partitioned between ether (350 mL) and water (100 mL). The organic layer is washed successively with 1N HCl (100 mL) and water (2×100 mL), then dried over anhydrous sodium sulfate and filtered. The filtrated is decolorized with charcoal, then filtered through a thin layer of silica gel (flash grade). The product is eluted with ether (200 mL). The solvent is evaporated under reduced pressure and the residue crystallized from ether-hexane (1:1). The white crystals are collected and dried under high vacuum for 1 hour at 40° C., then for 18 hours at room temperature to yield methyl 1-[(S)-3-carboxy-2-(trifluoroacetylamino)-propionyl]-2,3-dihydroindole-2-(S)-carboxylate, m.p. 157°-158° C.; [α]D =-188.76 (CHCl3, c 1.1).

reactant | methyl 1-[(S)-3-(benzyloxycarbonyl)-2-(trifluoroacetylamino)propionyl]-2,3-dihydroindole-2-(S)-carboxylate | 63 mmol, 30.1 g | C(C1=CC=CC=C1)OC(=O)C[C@@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)OC)NC(C(F)(F)F)=O | C23H21F3N2O6
solvent | ethyl acetate | 450 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 15 g | [Pd] | Pd
product | methyl 1-[(S)-3-carboxy-2-(trifluoroacetylamino)-propionyl]-2,3-dihydroindole-2-(S)-carboxylate | C(=O)(O)C[C@@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)OC)NC(C(F)(F)F)=O | C16H15F3N2O6
